US05804585
A. 2-Ethylthieno[2,3-b]pyridine
To a solution of thieno[2,3-b]pyridine (0.35 g, 2.6 mmoles) prepared according to well known methods [see, Klemm, et al. (1969) J. Org. Chem., 34:347-354; see, also U.S. Pat. Nos. 5,026,700, 4,577,014, 4,406,898, 4,375,544, 4,311,845, and 4,161,599] in THF (10 ml) at -78° C. was added t-BuLi (1.7M, 2.0 ml, 3.4 mmoles). The reaction solution was slowly warmed to -30° C. over a 45 minute period followed by the addition of bromoethane (0.25 ml, 3.4 mmoles). The solution was stirred 2 hours at ambient temperature then diluted with EtOAc (50 ml) and washed with H2O (75 ml). The organic phase was dried (MgSO4), filtered and concentrated to collect 0.41 g (97%) of the title compound as an orange-brown oil.

reactant | thieno[2,3-b]pyridine | 2.6 mmoles, 0.35 g | S1C=CC=2C1=NC=CC2 | C7H5NS
reactant | t-BuLi | 3.4 mmoles, 1.7M, 2.0 ml | [Li]C(C)(C)C
reactant | bromoethane | 3.4 mmoles, 0.25 ml | BrCC | C2H5Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 2-Ethylthieno[2,3-b]pyridine | C(C)C1=CC=2C(=NC=CC2)S1 | C9H9NS
